Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest and left arm pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with a H/O severe dementia, hypertension, type 2 diabetes 
mellitus, left-sided CVA, metastatic prostate cancer, pulmonary 
embolism, GI bleed, and recent admission to ___ 
___ for sepsis and pulmonary embolus, ultimately 
discharged home with plan for transition to hospice, now 
presenting as a transfer from ___ with several hours of 
possible chest and left arm pain
and EKG changes concerning for acute ischemia.

On ___, patient was noted to be extremely diaphoretic, cool 
and clammy, by nursing staff at his long term care facility. It 
was also reported patient was stating he had right arm pain at 
the time. VS were notable for BP 134/63, HR 91, and SaO2 99% on 
RA. The decision was made to transfer for ___ for a 
higher level of care. 

Upon arrival to ___, patient was able to endorse left arm 
pain, but responded no when questioned about chest pain. VS were 
notable for Temp 97.4F, HR 97, RR 21, BP 131/54, and SaO2 99% on 
RA. Labs were notable for a troponin-T 0.02, but were otherwise 
unremarkable. EKG demonstrated new anterior T-wave inversions 
concerning for ___ sign, and inferolateral ST depression,
both of which were new when compared with previous EKG in ___. He received aspirin ___nd IVF and was started on a 
heparin and nitroglycerin drips prior to transfer to ___.

Of note, patient has a MOLST form from ___ which is DNR 
but ok to intubate/ventilate. Per transfer referral from ___ 
___, patient is full code per family/HCP. Also worth noting, 
aspirin/clopidogrel and furosemide were discontinued at prior 
discharge and it is unclear if losartan was also discontinued.

Initial VS in ED were notable for Temp 96.8  HR 100  BP 138/73  
RR 16  SaO2 100% on O2 2 Lpm via ___. Labs were notable for a 
troponin-T of 0.02, which improved to 0.01 five hours later. 
CK-MB was flat at 2. Otherwise labs were unremarkable, including 
creatinine of 0.6. CXR demonstrated a left basilar/retrocardiac 
opacity and mild pulmonary vascular congestion, but no gross 
volume overload. EKG was similar to ___, although with 
more prominent T-wave inversion in anterolateral leads, again 
concerning for ___ sign. It also demonstrated LAD and LVH. 
Bedside ultrasound demonstrated a LVEF of ~40% with septal 
hypokinesis. Cardiology was consulted and felt the differential 
for patient's presentation was ACS vs. pulmonary embolus with RV 
strain vs. cerebral T-waves, with ACS being the most likely 
etiology. However, as patient has an extensive list of 
co-morbidities, was recently discharged with plan for hospice, 
and patient was unable to discuss/family not reachable, the 
decision was made not to proceed with emergent coronary 
angiogram. It was felt any intervention would require careful 
discussion of risks/benefits and goals of care. Patient was 
continued on heparin and nitroglycerin drips in ED. Vital signs 
on transfer were HR 88  BP 110/52  RR 18  SaO2 100% on O2 2 LPM 
via NC.

Upon arrival to the ward, patient ws unable to provide further 
history given baseline dementia, answering minimal questions 
yes/no. He did not know where he was and pointed to left arm/leg 
when asked about pain.
 
Past Medical History:
1. Severe dementia - minimally conversant, bed-bound
2. Left-sided CVA
3. Recent pulmonary embolism ___ (on Lovenox at SNF)
4. Right lower extremity DVT
5. Type 2 diabetes mellitus
6. Hypertension
7. Aortic stenosis
8. Depression
9. Metastatic prostate cancer
10. BPH
11. GI bleed ___
12. Epilepsy
13. Intracapsular fracture of left femur
 
Social History:
___
Family History:
Unable to obtain given patient's baseline dementia.
 
Physical Exam:
On admission
GENERAL: elderly black man lying comfortably in bed, in no 
distress, minimally verbal
VS: Temp: 97.6 (Tm 97.6), BP: 168/79, HR: 111 (105-111), RR: 20, 
O2 sat: 99%, O2 delivery: 2L
Weight on admission (bed): 119.05 lb/54 kg  
Weight ___ (bed): 52.7kg 
HEENT: AT/NC, EOMI, PERRL, no conjunctival pallor, anicteric 
sclera, mucous membranes moist
NECK: supple, non-tender, no JVD appreciated at 45 degrees  
CV: RRR, S1 and S2 normal, III/VI diastolic murmur heard at left 
sternal border and systolic murmur at apex  
RESP: CTAB--no wheezes or crackles, breathing comfortably
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, 2+ edema of right lower 
extremity, left lower extremity with no edema, patient grimaces 
when palpating left arm/leg
NEURO: A&O x1, left arm fixed at side flexed and pronated, right 
arm weak but moving, limited responsiveness

At discharge
GENERAL: lying comfortably in bed, no distress, minimally verbal
VS: Temp: 98.0 (Tm 98.6), BP: 130/55 (117-137/45-61), HR: 102 
(84-102), RR: 18 (___), O2 sat: 97% (94-100), O2 delivery: RA
Weight ___ (bed): 51.6kg
HEENT: no conjunctival pallor, anicteric sclera, mucous 
membranes moist
NECK: supple, non-tender, no JVD appreciated at 90 degrees  
CV: RRR, S1 and S2 normal, III/VI diastolic murmur heard at left 
sternal border and systolic murmur heard at apex 
RESP: CTAB--no wheezes or crackles anteriorly, breathing 
comfortably
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, 2+ edema of right lower 
extremity, left lower extremity with no edema
NEURO: A&O x1, left arm fixed at side flexed and pronated, right 
arm weak but moving, limited responsiveness
 
Pertinent Results:
___ 02:53AM BLOOD WBC-6.5 RBC-4.59* Hgb-13.3* Hct-41.7 
MCV-91 MCH-29.0 MCHC-31.9* RDW-14.9 RDWSD-49.6* Plt ___
___ 02:53AM BLOOD Neuts-64.5 ___ Monos-8.7 Eos-1.9 
Baso-0.5 Im ___ AbsNeut-4.18 AbsLymp-1.54 AbsMono-0.56 
AbsEos-0.12 AbsBaso-0.03
___ 07:30AM BLOOD ___ PTT-28.9 ___

___ 02:53AM BLOOD Glucose-149* UreaN-11 Creat-0.6 Na-142 
K-5.0 Cl-106 HCO3-24 AnGap-12

___ 07:20AM BLOOD CK(CPK)-97
___ 02:53AM BLOOD cTropnT-0.02*
___ 07:20AM BLOOD CK-MB-2
___ 07:20AM BLOOD cTropnT-0.01
___ 03:05PM BLOOD CK-MB-2 cTropnT-0.03*
___ 09:20PM BLOOD CK-MB-2 cTropnT-0.03*

___ Blood culture x2 - no growth

___ Echocardiogram
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left ventricular hypertrophy with 
top normal cavity size. There is moderate global left 
ventricular hypokinesis (biplane LVEF = 37 %). [Intrinsic left 
ventricular systolic function is likely more depressed given the 
severity of valvular regurgitation.] The estimated cardiac index 
is high (>4.0L/min/m2). Right ventricular chamber size is normal 
with borderline normal free wall function. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. No masses or vegetations are 
seen on the aortic valve, but cannot be fully excluded due to 
suboptimal image quality. Moderate to severe (3+) aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. No masses or vegetations are seen on the 
mitral valve, but cannot be fully excluded due to suboptimal 
image quality. Moderate to severe (3+) mitral regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is no pericardial effusion.

___ CXR
Left basilar/retrocardiac opacity, for which developing 
infection is considered in the appropriate clinical setting. 
This should be followed on subsequent x-rays to resolution. No 
evidence of pneumothorax. Mild pulmonary vascular congestion. 

___ LEFT GLENO-HUMERAL X-RAY
Suggestion of slight cortical disruption of the posterior 
greater tuberosity may represent small nondisplaced fracture 
versus physeal scar. Mild left AC and glenohumeral joint 
degenerative changes. Suggestion of mild superior subluxation of 
the humeral head could represent underlying rotator cuff tear. 

DISCHARGE LABS:
___ 07:45AM BLOOD WBC-4.3 RBC-4.37* Hgb-12.7* Hct-38.7* 
MCV-89 MCH-29.1 MCHC-32.8 RDW-14.8 RDWSD-48.1* Plt ___
___ 07:45AM BLOOD Glucose-133* UreaN-10 Creat-0.6 Na-141 
K-4.8 Cl-107 HCO3-23 AnGap-11
___ 07:45AM BLOOD Calcium-8.3* Phos-3.7 Mg-2.___ with a history of severe dementia, hypertension, type 2 
diabetes mellitus, left-sided CVA, metastatic prostate cancer, 
pulmonary embolism, GI bleed, and recent admission to ___ 
___ for sepsis and pulmonary embolus, ultimately 
discharged home with plan for transition to hospice, now 
presenting as a transfer from ___ with several hours of 
possible chest and left arm pain, and EKG changes concerning for 
acute ischemia.

ACUTE/ACTIVE ISSUES:
# NSTEMI: Patient presented with left arm pain and possible 
chest pain from SNF to ___. Troponin-T was found to be 
elevated at 0.02, and EKG demonstrated new anterior T-wave 
inversions, concerning for ___ syndrome, and inferolateral 
ST depressions, both of which were new when compared with 
previous EKGs in ___. Patient received aspirin 600 mg per 
rectum and was started on a heparin and nitroglycerin drip prior 
to transfer to ___. At ___, troponin-T fluctuated from 
0.01-0.03 and CK-MB was flat with eGFR >75 mL/min/1.73m2. 
Biggest concern was for ischemia/recent infarct with proximal 
LAD stenosis and ongoing myonecrosis. However, following 
discussion with the family and consideration given to patient's 
numerous co-morbidities, the decision was made to medically 
manage, as the likely risks of proceeding with coronary 
angiogram and PCI outweighed the benefits. Patient was started 
on aspirin 81 mg and atorvastatin 80 mg daily. Heparin drip was 
transitioned to therapeutic dose enoxaparin. Nitroglycerin IV 
was transitioned to a nitroglycerin patch. Home metoprolol 
tartrate was consolidated to metoprolol succinate 50 mg daily. 
Echocardiogram on ___ demonstrated a LVEF of 37% and global LV 
dysfunction of unclear chronicity. Patient reported no further 
episodes of chest pain throughout admission. 

# Non-displaced fracture of left shoulder: Patient reported left 
arm pain on admission, which was a chronic issue as an 
outpatient. Left shoulder X-ray demonstrated a possible small 
non-displaced fracture at the posterior greater tuberosity of 
the left shoulder. Orthopedics were consulted and felt there was 
no acute intervention warranted, but stated patient could 
follow-up with orthopedics (sports) in two weeks as an 
outpatient if pain persisted.

# Moderate-severe aortic and mitral regurgitation: 
Echocardiogram on ___ demonstrated moderate-severe AR/MR of 
unclear chronicity. Given the severity, there was concern for 
possible endocarditis, but blood cultures ultimately showed no 
growth in the setting normal temperature and normal WBC. 
Afterload reduction was optimized with clonidine patch and 
losartan as discussed below. Patient remained hemodynamically 
stable. If develops fevers at facility, consideration should be 
given to possible endocarditis as the underlying etiology.

CHRONIC/STABLE ISSUES:
# Dementia, Chronic moderate malnutrition, Dysphagia: Patient 
with a background history of CVA and severe dementia. Per 
discussion with One Care, ___, where patient is currently 
living, he is bed-bound and minimally verbal at baseline, even 
with interpreter. He was evaluated by speech and swallow during 
admission; no evidence of aspiration was seen, and he was deemed 
safe to continue pureed diet with thick liquids.

# HFrEF: TTE during admission demonstrated a LV ejection 
fraction of 37% of unclear chronicity. He was not on a diuretic 
as an outpatient, although previously had a trial of same. No 
diuretic was started as patient seemed euvolemic. Losartan 50 mg 
daily was restarted for afterload reduction. Metoprolol was 
transitioned to metoprolol succinate 50mg daily for 
neurohormonal blockade. Weight on discharge was 51.6 kg.

# Recent PE/DVT: Restarted Lovenox, adjusted for patient's 
current weight, at 50 mg BID. On discharge, patient should start 
Lovenox 80 mg daily on ___ and continue on this. 

# Type 2 diabetes mellitus: Not on medications as an outpatient. 
Did not require insulin sliding scale while he was an inpatient.

# Hypertension: Patient prescribed clonidine patch 0.3mg/hr as 
an outpatient. On arrival to ___, blood pressure and heart 
rate were elevated. No clonidine patch identified on skin. With 
replacement of same, tachycardia and hypertension resolved. 
Patient was also restarted on losartan 50 mg daily. It is 
important to continue both clonidine patch 0.3 mg/hr and 
losartan 50mg daily as an outpatient. Clonidine patch should be 
replaced every ___.  

# Epilepsy: Continued phenytoin 100 mg daily and 200 mg QHS 
during admission. Patient should continue this medication at his 
facility.

# Metastatic prostate cancer: Per discussion with son, patient 
carries a diagnosis of metastatic prostate cancer, but was 
deemed not a candidate for surgery about ___ years ago. 
Previously was receiving six monthly hormone injections. 
Currently on no treatment.

TRANSITIONAL ISSUES:
- discharge Hgb 12.7
- discharge creatinine 0.6
- discharge weight 51.6k g

MEDICATION CHANGES:
[] started aspirin 81 mg daily
[] started atorvastatin 8 0mg daily
[] stopped metoprolol tartrate 25 mg BID
[] started metoprolol succinate 50 mg daily
[] started nitroglycerin patch 0.1 mg/hr every day (12 hours 
on/12 hours off)
[] changed Lovenox to 80 mg daily

[] PULMONARY EMBOLISM: patient should continue Lovenox 80 mg 
daily 
[] CHEST PAIN: if patient reports chest pain, would increase 
nitroglycern patch to 0.2 mg/hr
[] NSTEMI: intervention was deferred given numerous medical 
comorbidities and discussion with family
[] MEDICATION: patient should continue ALL medications listed on 
discharge paperwork
[] FEVER: if patient develops fevers, endocarditis should be 
considered as possible etiology
[] CLONIDINE: if patient reliably taking oral medications would 
up-titrate dose of losartan and decrease dose of clonidine patch 
to attempt to discontinue clonidine patch

# CODE STATUS: DNR/DNI
# CONTACT: ___, HCP/son, ___
           ___, HCP/son, ___ 
 
Medications on Admission:
1. Citalopram 10 mg PO DAILY 
2. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD EVERY 7 DAYS 
3. Losartan Potassium 50 mg PO DAILY 
4. Pregabalin 50 mg PO BID 
5. Phenytoin Infatab 100 mg PO DAILY 
6. Phenytoin Infatab 200 mg PO QHS 
7. TraMADol 50 mg PO BID 
8. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
9. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
10. Artificial Tears 1 DROP BOTH EYES BID 
11. Fleet Enema (Saline) ___AILY:PRN If not responding 
to laxative 
12. Senna 8.6 mg PO DAILY:PRN Constipation - First Line 
13. Metoprolol Tartrate 25 mg PO BID 
14. Enoxaparin Sodium 120 mg SC DAILY 
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Enoxaparin Sodium 80 mg SC DAILY 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time  
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  Nitroglycerin Patch 0.1 mg/hr TD Q24H  
6.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
7.  Artificial Tears 1 DROP BOTH EYES BID  
8.  Citalopram 10 mg PO DAILY  
9.  Clonidine Patch 0.3 mg/24 hr 1 PTCH TD EVERY 7 DAYS  
10.  Fleet Enema (Saline) ___AILY:PRN If not responding 
to laxative  
11.  Losartan Potassium 50 mg PO DAILY  
12.  Phenytoin Infatab 100 mg PO DAILY  
13.  Phenytoin Infatab 200 mg PO QHS  
14.  Pregabalin 50 mg PO BID  
15.  Senna 8.6 mg PO DAILY:PRN Constipation - First Line  
16.  TraMADol 50 mg PO BID  
17.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
-Non-ST elevation myocardial infarction
-Moderate-severe aortic regurgitation
-Moderate-severe mitral regurgitation
-Non-displaced fracture of posterior greater tuberosity at left 
shoulder
-Left ventricular systolic failure of unclear duration
-Severe dementia
-Chronic moderate malnutrition
-Dysphagia in setting of
-Prior stroke
-Seizure disorder
-History of pulmonary embolism/deep venous thrombosis of right 
lower extremity 
-Type 2 diabetes mellitus
-Hypertension
-Metastatic prostate cancer 
-History of gastrointestinal bleed
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.
 
Discharge Instructions:
Dear Mr. ___,

WHY YOU CAME TO THE HOSPITAL
You were transferred to ___ as you were having chest pain

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- You may have had a blockage in your heart, which we decided to 
treat medically, given the risk performing a procedure 
outweighed the benefit
- You had a scan of your heart which showed some of your valves 
were leaky
- You had an X-ray of your left shoulder which showed a 
fracture, which was likely old
- The orthopedic doctors recommended ___ and follow-up 
in two weeks as an outpatient

WHAT YOU NEED TO DO WHEN YOU LEAVE THE ___
- It is important you continue ALL your medications as 
prescribed on discharge
- You should follow-up with orthopedics in two weeks time as 
arranged

It was a pleasure taking care of you!

MEDICATION CHANGES:
[] started aspirin 81mg daily
[] started atorvastatin 80mg daily
[] started metoprolol succinate 50mg daily
[] started nitroglycerin patch 0.1mg/hr every day (12 hours 
on/12 hours off)
[] changed Lovenox to 80mg daily
[] stopped metoprolol tartrate 25mg BID
 
Followup Instructions:
___